US04150137
A mixture of 0.05 g of sodium and 8 ml of 3-hydroxymethylpyridine was heated at 65°-70° C. for 10 hours. To this mixture was added 2.1 g of p-isobutylphenylacetic acid methyl ester, and the whole was heated at 95°-100° C. for 8 hours. After the reaction was complete, 100 ml of water was added. The resulting mixture was extracted with ether, and the ether layer separated was dehydrated and concentrated to leave an oily residue. This residue was distilled under reduced pressure to give 1.9 g of p-isobutylphenylacetic acid-3-pyridylmethyl ester as a colorless liquid, boiling at 142°-145° C./1 mmHg. Analysis-Calculated for C18H21NO2 : C, 76.29; H, 7.47; N, 4.94. Found: C, 76.02; H, 7.38; N, 4.79. Mass spectrum: parent ion 283 m/e.

reactant | sodium | 0.05 g | [Na] | Na
reactant | 3-hydroxymethylpyridine | 8 ml | OCC=1C=NC=CC1 | C6H7NO
reactant | p-isobutylphenylacetic acid methyl ester | 2.1 g | COC(CC1=CC=C(C=C1)CC(C)C)=O | C13H18O2
solvent | water | 100 ml | O | H2O
product | p-isobutylphenylacetic acid-3-pyridylmethyl ester | 1.9 g | N1=CC(=CC=C1)COC(CC1=CC=C(C=C1)CC(C)C)=O | C18H21NO2
